US09212348B2
Synthesis of t-Butyl 3-(trichloromethyl)-1,2-oxaziridine-2-carboxylate
20.0 g (53.0 mol) of triphenyl(t-butoxycarbonylimino)phosphorane was suspended in 80 mL of toluene, mixed with 8.84 g (60.0 mmol) of anhydrous chloral and heated at 120° C. for 4 hours under reflux. After cooling to room temperature, 300 mL of hexane was added, and the resulting white solid was separated by filtration. The filtrate was concentrated under reduced pressure. The resulting brown liquid was dissolved in 200 mL of chloroform, and simultaneous addition of 3.74 g (50.0 mmol) of potassium carbonate in 20 mL of ice-cold water and 4.94 g (15 mmol) of OXONE (2KHSO5.KHSO4.K2SO4, supplied from Du Pont) in 40 mL of ice-cold water and 1 hour of stirring under cooling with ice were repeated three times. After removal of the aqueous layer, simultaneous addition of aqueous potassium carbonate and aqueous OXONE (2KHSO5.KHSO4.K2SO4, supplied from Du Pont) and 1 hour of stirring under cooling with ice were repeated three times, similarly. After removal of the aqueous layer, simultaneous addition of aqueous potassium carbonate and aqueous OXONE and 1 hour of stirring under cooling with ice were repeated three times, similarly. After removal of the aqueous layer, 11.2 g (150 mmol) of potassium carbonate in 60 mL of ice-cold water and 14.8 g (45 mmol) of OXONE in 120 mL of ice-cold water were added simultaneously, and the reaction solution was stirred for 1 hour of stirring under cooling with ice. After removal of the aqueous layer, aqueous potassium carbonate and aqueous OXONE were simultaneously added, the reaction solution was stirred for 1 hour of stirring under cooling with ice, similarly. After removal of the aqueous layer, aqueous potassium carbonate and aqueous OXONE were simultaneously added, the reaction solution was stirred for 1 hour of stirring under cooling with ice, similarly. After removal of the aqueous layer, the chloroform layer was dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography using hexane-ethyl acetate {100:0 (volume ratio, hereinafter the same applies) to 80:20} as the eluent to give 10.3 g of the desired product as a pale yellow oil.

reactant | triphenyl(t-butoxycarbonylimino)phosphorane | 53.0 mol, 20.0 g | C1(=CC=CC=C1)P(=NC(=O)OC(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H24NO2P
reactant | chloral | 60.0 mmol, 8.84 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | potassium carbonate | 50.0 mmol, 3.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | OXONE | 15 mmol, 4.94 g | OOS(=O)[O-].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | potassium carbonate | 150 mmol, 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | OXONE | 45 mmol, 14.8 g | OOS(=O)[O-].[K+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 300 mL | CCCCCC | C6H14
product | t-Butyl 3-(trichloromethyl)-1,2-oxaziridine-2-carboxylate | 10.3 g | ClC(C1N(O1)C(=O)OC(C)(C)C)(Cl)Cl | C7H10Cl3NO3
